US07115666B2
To a suspension of LiAlH4 (8.37 g, 220.6 mmol, 1.5 equiv) in THF (300 ml) was added dropwise a solution of 3-(4-hydroxyphenyl)propionic acid (25.0 g, 150 mmol, 1 equiv) in THF (50 ml) at rt and mixture stirred at 60° C. for 2 h. The reaction mixture was acidified with 1 N HCl, diluted with water, and extracted with EtOAc. The combined extracts were washed with water, saturated aqueous NaHCO3, brine and dried over MgSO4 and concentrated under vacuum to give a 3-(4-hydroxyphenyl)-1-propanol as a white solid (15.95 g, 69.9%).

reactant | LiAlH4 | 220.6 mmol, 8.37 g, 1.5 equiv | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-(4-hydroxyphenyl)propionic acid | 150 mmol, 25.0 g, 1 equiv | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-(4-hydroxyphenyl)-1-propanol | 15.95 g, 69.9% | OC1=CC=C(C=C1)CCCO | C9H12O2
